US08685975B2
To an ice-cold solution of 2-(4-(((tert-butyldimethylsilyl)oxy)methyl)phenyl)-5-ethyl-1,3,4-oxadiazole (3.0 g, 9.4 mmol) in MeOH (30 mL) was added 1 M HCl (20 mL, 20 mmol) dropwise. The reaction was stirred over ice for 1 hr then concentrated. The residue was quenched with saturated aqueous NaHCO3 and extracted with EtOAc. The combined organics were dried over Na2SO4 and concentrated in vacuo to give (4-(5-ethyl-1,3,4-oxadiazol-2-yl)phenyl)methanol as an off-white solid (1.92 g, 93% yield).

reactant | 2-(4-(((tert-butyldimethylsilyl)oxy)methyl)phenyl)-5-ethyl-1,3,4-oxadiazole | 9.4 mmol, 3.0 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=C1)C=1OC(=NN1)CC | C17H26N2O2Si
reactant | HCl | 20 mmol, 1 M, 20 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | (4-(5-ethyl-1,3,4-oxadiazol-2-yl)phenyl)methanol | 1.92 g, 93% yield | C(C)C1=NN=C(O1)C1=CC=C(C=C1)CO | C11H12N2O2
